US07592373B2
4.281.b. 3-iodobiphenyl-4-ylamine
A solution of 7.3 g (29.4 mmol) of 3-bromobiphenyl-4-ylamine in 120 mL of acetic acid is mixed with 6 mL of concentrated hydrochloric acid at ambient temperature, cooled to 15° C., and stirred for 30 minutes. A solution of 2 g (28.9 mmol) of sodium nitrite in 7 mL of water is slowly added dropwise to this reaction mixture at 15° C. and stirred for 30 minutes. Then at 5° C., a solution of 5.4 g (32.5 mmol) of potassium iodide in 28 mL of water is slowly added dropwise and the mixture is stirred. After 30 minutes, 2.95 g of sodium thiosulfate is added and the mixture is stirred for a further 30 minutes. Then the reaction mixture is evaporated down and combined with water/ethyl acetate. The aqueous phase is again extracted with ethyl acetate, the combined aqueous phases are extracted once with water and dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: petroleum ether). Yield: 6.6 g (85% of theory); C12H8BrI (M=359.00); calc.: molecular ion peak (M)+: 358/360 (Br); found: molecular ion peak (M)+: 358/360 (Br).

reactant | 3-bromobiphenyl-4-ylamine | 29.4 mmol, 7.3 g | BrC=1C=C(C=CC1N)C1=CC=CC=C1 | C12H10BrN
reactant | hydrochloric acid | 6 mL | Cl | ClH
reactant | sodium nitrite | 28.9 mmol, 2 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 32.5 mmol, 5.4 g | [I-].[K+]
reactant | sodium thiosulfate | 2.95 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
solvent | water | 7 mL | O | H2O
solvent | water | 28 mL | O | H2O
product | 3-iodobiphenyl-4-ylamine | IC=1C=C(C=CC1N)C1=CC=CC=C1 | C12H10IN
